*2N3097 MCE 3/18/98
*Ref: IR Power Semiconductors Product Digest '94
*1200V 110A pkg:TO-126 1,2,3
.SUBCKT 2N3097   1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    175K
RR  1 4    116K
RGK 6 5    34.1
RG  2 6    0.271
RK  3 5    1.97M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=44F IBV=1.38M BV=1.2K)
.MODEL ZR   D (IS=44F IBV=1.38M BV=1.2K)
.MODEL ZGK  D (IS=44F IBV=1.38M BV=5)
.MODEL POUT PNP (IS=44P BF=1 CJE=368P TF=94.6U)
.MODEL NOUT NPN (IS=44P BF=100 RC=7.88M CJE=1.84N CJC=368P TF=6.3U)
.ENDS


